US05011825
(c) H-D-Leu-Arg-D-Val-OBzl
12.05 ml of diethylamine are added to a solution of 8.04 g (11.5 mmol) of Fmoc-D-Leu-Arg-D-Val-OBzl in 60 ml of dimethylformamide. The mixture is left to stand at room temperature for 15 minutes, and is concentrated. The residue is partitioned between n-pentanol and NaHCO3 solution. The pentanol phase is concentrated, and the residue is triturated with diethyl ether.

reactant | diethylamine | 12.05 ml | C(C)NCC | C4H11N
reactant | Fmoc-D-Leu-Arg-D-Val-OBzl | 11.5 mmol, 8.04 g | N([C@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@H](C(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C39H50N6O6
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | H-D-Leu-Arg-D-Val-OBzl | N[C@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@H](C(C)C)C(=O)OCC1=CC=CC=C1 | C24H40N6O4
